US07981903B2
10% palladium on carbon (0.25 g, 8.52 mmol) was placed under N2 atm. MeOH (10 mL) was added, followed by a solution of N,N-dimethyl-2-[(2R)-2-methyl-5-(methyloxy)-6-nitro-2,3-dihydro-1H-indol-1-yl]-2-oxoethanamine (2.92 g, 9.96 mmol) in MeOH (190 mL). The slurry was purged with N2, then was placed under H2 atm via a rubber balloon and maintained at rt for 2 days. The resulting mixture was filtered through a pad of Celite and the filtrate was concentrated. The oily residue was taken up into Et2O and concentrated again to obtain (2R)-1-[(dimethylamino)acetyl]-2-methyl-5-(methyloxy)-2,3-dihydro-1H-indol-6-amine as a beige solid (2.43 g, 93%). 1H NMR (400 MHz, DMSO-d8) δ ppm 1.17 (d, J=5.86 Hz, 3H), 2.26 (s, 6H), 2.44 (d, J=14.83 Hz, 1H), 3.02 (d, J=14.28 Hz, 1H), 3.10-3.27 (m, 1H), 3.36 (d, J=14.28 Hz, 1H), 3.72 (s, 3H), 4.52-4.77 (m, 3H), 6.72 (s, 1H), 7.48 (s, 1H); ESIMS (M+H)+=264.23.

reactant | N,N-dimethyl-2-[(2R)-2-methyl-5-(methyloxy)-6-nitro-2,3-dihydro-1H-indol-1-yl]-2-oxoethanamine | 9.96 mmol, 2.92 g | CN(CC(=O)N1[C@@H](CC2=CC(=C(C=C12)[N+](=O)[O-])OC)C)C | C14H19N3O4
catalyst | palladium on carbon | 8.52 mmol, 0.25 g | [Pd] | Pd
solvent | MeOH | 190 mL | CO | CH4O
solvent | MeOH | 10 mL | CO | CH4O
product | (2R)-1-[(dimethylamino)acetyl]-2-methyl-5-(methyloxy)-2,3-dihydro-1H-indol-6-amine | 2.43 g, 93% | CN(C)CC(=O)N1[C@@H](CC2=CC(=C(C=C12)N)OC)C | C14H21N3O2
